US05500406
11.6 g (0.1 mol) of pseudothiohydantoin was suspended in 150 ml of dimethylformamide, and 17 g (0.12 mol) of methyl iodide was added thereto. Then, the mixture was stirred at 60° C. for one hour. After being left to cool, the reaction mixture was poured into 1000 ml of ethyl acetate, and precipitated crystals were collected by filtration to obtain 15 g of 3-methyl-2-iminothiazolidin-4-one hydroiodide as pale yellow crystals.

reactant | pseudothiohydantoin | 0.1 mol, 11.6 g | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
reactant | methyl iodide | 0.12 mol, 17 g | CI | CH3I
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-methyl-2-iminothiazolidin-4-one hydroiodide | 15 g | I.CN1C(SCC1=O)=N | InChI=1S/C4H6N2OS.HI/c1-6-3(7)2-8-4(6)5;/h5H,2H2,1H3;1H
